US04285942
1-(Morpholino-propoxyimino)cyclododecane
Starting from 18.23 g. (0.1 moles) of cyclododecanone and 25.64 g. (0.11 moles) of morpholinopropoxyamine dihydrochloride the title compound is prepared as in Example 13. Yield: 28.4 g. (87%). Hydrogen fumarate, m.p.: 118°-120° C.

reactant | cyclododecanone | 0.1 moles | C1(CCCCCCCCCCC1)=O | C12H22O
reactant | morpholinopropoxyamine dihydrochloride | 0.11 moles | Cl.Cl.O1CCN(CC1)CCCON
reactant | Hydrogen fumarate | C(\C=C\C(=O)[O-])(=O)O
product | 1-(Morpholino-propoxyimino)cyclododecane | O1CCN(CC1)CCCON=C1CCCCCCCCCCC1 | C19H36N2O2
